US08071592B2
(b) Phenylmethyl 4-((6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinecarboxylate
Sodium bicarbonate (7.34 g) was added slowly to a solution of phenylmethyl 4-[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]-1-piperidinecarboxylate (11.1 g, 29 mmol) in MeOH (200 ml) and the mixture was cooled in an ice-bath before portion-wise addition of di-tert-butyl dicarbonate (6.98 g, 32 mmol). The mixture was stirred at rt for approx. 3 days, then filtered and evaporated. Chromatography on silica (500 g), eluting with 0-100% ethyl acetate/hexane gave the product as a white solid (11.89 g, 85%).

reactant | Sodium bicarbonate | 7.34 g | C([O-])(O)=O.[Na+]
reactant | phenylmethyl 4-[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]-1-piperidinecarboxylate | 29 mmol, 11.1 g | N1=NC(=CC2=C1OCCO2)CNC2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C20H24N4O4
reactant | di-tert-butyl dicarbonate | 32 mmol, 6.98 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 200 ml | CO | CH4O
product | Phenylmethyl 4-((6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl){[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinecarboxylate | 11.89 g, 85% | N1=NC(=CC2=C1OCCO2)CN(C2CCN(CC2)C(=O)OCC2=CC=CC=C2)C(=O)OC(C)(C)C | C25H32N4O6
